US08071592B2
4-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one Dihydrochloride
A solution of 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one (150 mg, 0.494 mmoles) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (82 mg, 0.496 mmoles) in anhydrous DCM (10 ml) and anhydrous MeOH (1 ml) was stirred at rt for 5 minutes. Sodium triacetoxyborohydride (316 mg, 1.49 mmoles) was added and the mixture was stirred, under argon, for 18 h, treated with sat. aq. NaHCO3 solution (5 ml) and 10:1 DCM:MeOH (10 ml). The layers were separated and the aqueous layer was washed with 10:1 DCM:MeOH (5 ml). The organic extracts were combined, washed with brine, passed through a hydrophobic frit and evaporated to an orange gum. Purification on a 20 g silica column eluted with a 0% to 30% DCM/MeOH gradient elution gave the free base of the title compound as a colourless gum (128 mg, 57%).

reactant | 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 0.494 mmoles, 150 mg | NC1CCN(CC1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC | C15H21N5O2
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | Sodium triacetoxyborohydride | 1.49 mmoles, 316 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
reactant | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 ml | CO | CH4O
solvent | MeOH | 1 ml | CO | CH4O
product | 4-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one Dihydrochloride | 128 mg, 57% | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC(=N1)OC | InChI=1S/C23H28N6O4.2ClH/c1-31-21-3-2-18-23(27-21)29(22(30)15-26-18)9-8-28-6-4-16(5-7-28)24-13-17-12-19-20(14-25-17)33-11-10-32-19;;/h2-3,12,14-16,24H,4-11,13H2,1H3;2*1H
